US05011998
(E)-9-(1,2-diphenylethenyl)carbazole
N-Phenylbenzaldimine (1.35 g, 0.0075 mol) and 9-benzylcarbazole (1.29 g, 0.0077 mol) were heated at 75° C. for 30 min in dimethylformamide (dry), 50 mL, and potassium tert-butoxide (0.10 g, 0.00089 mol). Based on reversed-phase HPLC results, the reaction was complete after 3 min. Aqueous work-up as above and recrystallization of the precipitate from methanol gave needles mp 160-2° C. (81%). 1H NMR (200 MHz, CDCl3) δ (assignment): 6.85-7.09 (m, 2 H, aromatic). MS [m/e (70 eV, % of base peak)] C26H19N 345 (M+., 100), 267 (M+. --PhH, 25.8), 178 PhCCPh+., 47.5), 167 (carbazole+., 63.6). HRMS (m/z) for C26H19N (M+.) calcd. 345.1517 found 345.1513. FTIR (CDCl3): 3083, 3064, 3027, 1624, 1598, 1493, 1479, 1450, 1384, 1335, 1314, 1232 cm-1. Analysis: calcd. for C26H19N: C 90.40, H 5.54, N 4.05%; found: C 90.25, H 5.66, N 4.20%.

reactant | carbazole | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | PhH | C1=CC=CC=C1 | C6H6
product | (E)-9-(1,2-diphenylethenyl)carbazole | C1(=CC=CC=C1)/C(=C\C1=CC=CC=C1)/N1C2=CC=CC=C2C=2C=CC=CC12 | C26H19N
